US06982274B2
A total of 1.0 g of methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate obtained in Production Example I-4-e was dissolved in 15 ml of N,N-dimethylformamide, and 200 mg of sodium hydride (60% oily) was added under ice-cooling, followed by stirring for 30 minutes. To the reaction mixture was added 0.4 ml of chloromethyl methyl ether, followed by stirring at room temperature for 30 minutes. To the reaction mixture was added water and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 0.95 g of methyl 3-(3-fluorophenyl)-1-(methoxymethyl)-1H-5-indazolecarboxylate as colorless needles. This compound was dissolved in 15 ml of tetrahydrofuran, and 8.0 ml of a solution of diisobutylaluminium hydride in toluene was added dropwise at room temperature. While cooling the reaction mixture, water was added. The mixture was acidified with diluted hydrochloric, and extracted with ethyl acetate for two times. The organic layer was washed with sodium hydrogencarbonate and water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 0.78 g of the title compound as a colorless oil.

reactant | methyl 3-(3-fluorophenyl)-1H-5-indazolecarboxylate | 1.0 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)OC | C15H11FN2O2
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 0.4 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 3-(3-fluorophenyl)-1-(methoxymethyl)-1H-5-indazolecarboxylate | 0.95 g | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)OC)COC | C17H15FN2O3
